US05888940
4-Chloro-6-fluoro-2-methyl-7-nitrobenzothiazole
A solution of 7 ml of concentrated nitric acid in 6 ml of concentrated sulfuric acid was added to a solution of 10 g (50 mmol) of 4-chloro-6-fluoro-2-methylbenzothiazole in 35 ml of concentrated sulfuric acid. Stirring was carried out for 10 minutes, after which the mixture was poured into ice water. Thereafter, the suspended desired product was separated off and, for purification, was dissolved in 100 ml of 3:1 cyclohexane/ethyl acetate. After filtration over a bed of silica gel, 8 g of desired product was obtained from the remaining solution; mp.: 130° to 132° C.

reactant | nitric acid | 7 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-chloro-6-fluoro-2-methylbenzothiazole | 50 mmol, 10 g | ClC1=CC(=CC2=C1N=C(S2)C)F | C8H5ClFNS
solvent | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Chloro-6-fluoro-2-methyl-7-nitrobenzothiazole | ClC1=CC(=C(C2=C1N=C(S2)C)[N+](=O)[O-])F | C8H4ClFN2O2S
